US06777446B2
2-nitro-N-(2,5-dimethyl-phenyl)-benzenesulfonamide (6.1 g, 20 mmol) in EtOAc (60 mL) is treated with SnCl2.2H2O (22.5 g, 100 mmol). The reaction mixture is heated to reflux for 30 minutes and then allowed to cool to room temperature. 2 N KOH (250 mL, 500 mmol) is added and the resulting mixture stirred vigorously until all solids dissolve. The aqueous layer is separated and extracted 2×100 mL EtOAc. The combined organic layers are washed with sat. brine, dried over MgSO4, filtered, and concentrated to a solid, which is recrystallized from hot EtOAc/hexanes to provide 2-amino-N-(2,5-dimethyl-phenyl)-benzenesulfonamide.

reactant | 2-nitro-N-(2,5-dimethyl-phenyl)-benzenesulfonamide | 20 mmol, 6.1 g | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)NC1=C(C=CC(=C1)C)C | C14H14N2O4S
reactant | SnCl2.2H2O | 100 mmol, 22.5 g | O.O.Cl[Sn]Cl
reactant | KOH | 500 mmol, 2 N, 250 mL | [OH-].[K+]
solvent | EtOAc | 60 mL | CCOC(=O)C | C4H8O2
product | 2-amino-N-(2,5-dimethyl-phenyl)-benzenesulfonamide | NC1=C(C=CC=C1)S(=O)(=O)NC1=C(C=CC(=C1)C)C | C14H16N2O2S
